US07087579B2
To a suspension of 4-[(4-ethylphenyl)methyl]-5-methyl-3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-1H-pyrazole (0.030 g) and cesium carbonate (0.091 g) in acetonitrile (0.4 mL) was added benzyl(3-bromopropyl)ether (0.039 mL), and the mixture was stirred at 80° C. for 30 minutes. To the reaction mixture were added methanol (0.4 mL) and 2 mol/L aqueous sodium hydroxide solution (0.55 mL), and the mixture was stirred at room temperature overnight. Water was added to the reaction mixture, and the mixture was purified by solid phase extraction on ODS (washing solvent: distilled water, eluent: methanol). To the resulting eluent was added a catalytic amount of 10% palladium-carbon powder, and the mixture was stirred at room temperature under a hydrogen atmosphere for 3 days. Insoluble materials were removed by filtration, and the solvent of the filtrate was removed under reduced pressure. The residue was purified by liquid chromatography on ODS (eluent: methanol/water=40/60) to give 4-[(4-ethylphenyl)methyl]-3-(β-D-glucopyranosyloxy)-1-(3-hydroxypropyl)-5-methyl-1H-pyrazole (0.0080 g).

reactant | 4-[(4-ethylphenyl)methyl]-5-methyl-3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-1H-pyrazole | 0.030 g | C(C)C1=CC=C(C=C1)CC=1C(=NNC1C)O[C@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O | C27H34N2O10
reactant | cesium carbonate | 0.091 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | benzyl(3-bromopropyl)ether | 0.039 mL | C(C1=CC=CC=C1)OCCCBr | C10H13BrO
reactant | sodium hydroxide | 2 mol/L, 0.55 mL | [OH-].[Na+]
solvent | acetonitrile | 0.4 mL | C(C)#N | C2H3N
solvent | Water | O | H2O
solvent | methanol | 0.4 mL | CO | CH4O
product | 4-[(4-ethylphenyl)methyl]-3-(β-D-glucopyranosyloxy)-1-(3-hydroxypropyl)-5-methyl-1H-pyrazole | 0.0080 g | C(C)C1=CC=C(C=C1)CC=1C(=NN(C1C)CCCO)O[C@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO | C22H32N2O7
